US08975400B2
To the solution of 2-((6-chloropyridin-3-yl)oxy)-5-formylbenzonitrile (340 mg, 1.314 mmol) in methanol (5 ml), was added NaBH4 (74.6 mg, 1.972 mmol). The reaction mixture was stirred at rt for 30 min, and then quenched by water and extracted with EA twice. The organic phase was washed with brine, dried over Na2SO4 and evaporated in vacuo to give crude product 2-((6-chloropyridin-3-yl)oxy)-5-(hydroxymethyl)benzonitrile (240 mg, 0.921 mmol, 70.0% yield) as brown oil.

reactant | 2-((6-chloropyridin-3-yl)oxy)-5-formylbenzonitrile | 1.314 mmol, 340 mg | ClC1=CC=C(C=N1)OC1=C(C#N)C=C(C=C1)C=O | C13H7ClN2O2
reactant | NaBH4 | 1.972 mmol, 74.6 mg | [BH4-].[Na+]
solvent | methanol | 5 ml | CO | CH4O
product | 2-((6-chloropyridin-3-yl)oxy)-5-(hydroxymethyl)benzonitrile | 0.921 mmol, 240 mg, 70.0% yield | ClC1=CC=C(C=N1)OC1=C(C#N)C=C(C=C1)CO | C13H9ClN2O2
